US07875645B2
rac-2-(2-Methyl-1-phenyl-propyl)-4,5-dihydro-1H-imidazole was prepared from rac-3-methyl-2-phenyl-butyronitrile and ethylene diamine in analogy to Example 22: colourless powder; MS (ISP): 203.0 ((M+H)+.).

reactant | rac-3-methyl-2-phenyl-butyronitrile | CC(C(C#N)C1=CC=CC=C1)C | C11H13N
reactant | ethylene diamine | C(CN)N | C2H8N2
product | rac-2-(2-Methyl-1-phenyl-propyl)-4,5-dihydro-1H-imidazole | CC(C(C1=CC=CC=C1)C=1NCCN1)C | C13H18N2
